US07897631B2
2-Amino-dec-9-ynoic acid methyl ester hydrochloride (1.50 g, 6.42 mmol) was treated to an Akabori reduction followed by a cyanamide condensation employing conditions previously reported to produce 4-Oct-7-ynyl-1H-imidazol-2-ylamine hydrochloride (0.774 g, 53%) as a pale yellow solid (Olofson et al., Journal of Organic Chemistry 1997, 62, (23), 7918-7919). 1H NMR (400 MHz, CD3OD) δ 6.09 (s, 1H), δ 2.19 (t, 2H), δ 1.95 (t, 1H), 1.93 (m, 2H), δ 1.39-1.11 (m, 8H) ppm; 13C NMR (75 MHz, CD3OD) δ 148.5, 131.0, 110.1, 83.9, 68.3, 28.6, 28.5, 28.4, 28.3, 25.7, 17.8 ppm; HRMS (ESI) calcd for C11H18N3 (M+) 192.1495. found 192.1495.

reactant | 2-Amino-dec-9-ynoic acid methyl ester hydrochloride | 6.42 mmol, 1.50 g | Cl.COC(C(CCCCCCC#C)N)=O
reactant | cyanamide | N#CN | CH2N2
product | 4-Oct-7-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.774 g, 53% | Cl.C(CCCCCC#C)C=1N=C(NC1)N | InChI=1S/C11H17N3.ClH/c1-2-3-4-5-6-7-8-10-9-13-11(12)14-10;/h1,9H,3-8H2,(H3,12,13,14);1H
